US05089487
3-(1-Hydroxy-1,3-dimethylbutyl)-4,11-dimethoxy-9-methyl-7H-dibenzo[b,g][1,5]dioxocin-5-one
100 mg (0.26 mmol) of 4,11-dimethoxy-9-methyl-3-(3-methylbutan-1-onyl)-7H-dibenzo[b,g][1,5]dioxocin-5-one are dissolved in 5 ml of absolute tetrahydrofuran under argon and 0.2 ml (0.6 mmol) of a 3M methylmagnesium bromide solution in diethyl ether are added at room temperature. After 4 h, the reaction is discontinued by addition of 0.2 ml of ammonium chloride solution. The mixture is concentrated in vacuo, the residue is taken up in dichloromethane and the solution is washed with water. After drying the organic phase over magnesium sulphate, it is concentrated and the residue is purified by column chromatography on silica gel using petroleum ether/ethyl acetate 10:1.

reactant | 4,11-dimethoxy-9-methyl-3-(3-methylbutan-1-onyl)-7H-dibenzo[b,g][1,5]dioxocin-5-one | 0.26 mmol, 100 mg | COC1=C(C=CC=2OC3=C(COC(C21)=O)C=C(C=C3OC)C)C(CC(C)C)=O | C22H24O6
reactant | methylmagnesium bromide | 3M | C[Mg]Br
reactant | ammonium chloride | 0.2 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-(1-Hydroxy-1,3-dimethylbutyl)-4,11-dimethoxy-9-methyl-7H-dibenzo[b,g][1,5]dioxocin-5-one | OC(CC(C)C)(C)C1=C(C2=C(OC3=C(COC2=O)C=C(C=C3OC)C)C=C1)OC | C23H28O6
